US07399759B2
2-(6-Oxo-1,6-dihydro-2-pyridyl)-4H-1,3-benzothiazine-4-one
2-(6-(Benzyloxy)-2-pyridyl)-4H-1,3-benzothiazine-4-one (0.15 g, 0.43 mmol) was dissolved in trifluoroacetic acid (10 ml), and the mixture was stirred at room temperature for 15 hrs. The solvent was evaporated, and the residue was recrystallized from chloroform-hexane to give the titled compound (0.07 g, 69%).

reactant | 2-(6-(Benzyloxy)-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.43 mmol, 0.15 g | C(C1=CC=CC=C1)OC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C20H14N2O2S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(6-Oxo-1,6-dihydro-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.07 g, 69% | O=C1C=CC=C(N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C13H8N2O2S
